US04016174
Preparation of 3-(1-ethyl-2-methylindol-3-yl)-3-(1-ethyl-2-methyl-1H-benz[g]indol-3-yl)-4,5,6,7-tetrachlorophthalide.
A solution of about 4.5 grams of 1-ethyl-2-methyl-3-(2-carboxy-3,4,5,6-tetrachlorobenzoyl)indole and about 3.2 grams of 1-ethyl-2-methyl-1H-benz[g]indole in 50 milliliters of acetic anhydride is heated at 90° C. for about four hours. The product is isolated as disclosed previously. 2.0 grams of the title compound is obtained having a melting point of 170°-177° C. A solution of the product imparts a purple color to paper coated with a phenolic resin or silton clay or a combination of the two. The calculated analysis for C34H26N2Cl4O2, the title compound, is C, 64.17%; H, 4.12%; N, 4.40%; and Cl, 22.28%. Found, on analysis: C, 64.33%; H, 4.19%; N, 4.49%; Cl, 22.37%.

reactant | 1-ethyl-2-methyl-3-(2-carboxy-3,4,5,6-tetrachlorobenzoyl)indole | about 4.5 grams | C(C)N1C(=C(C2=CC=CC=C12)C(C1=C(C(=C(C(=C1Cl)Cl)Cl)Cl)C(=O)O)=O)C | C19H13Cl4NO3
reactant | 1-ethyl-2-methyl-1H-benz[g]indole | about 3.2 grams | C(C)N1C(=CC2=CC=C3C(=C12)C=CC=C3)C | C15H15N
solvent | acetic anhydride | 50 milliliters | C(C)(=O)OC(C)=O | C4H6O3
product | 3-(1-ethyl-2-methylindol-3-yl)-3-(1-ethyl-2-methyl-1H-benz[g]indol-3-yl)-4,5,6,7-tetrachlorophthalide | 2.0 grams | C(C)N1C(=C(C2=CC=CC=C12)C1(OC(=O)C2=C(C(=C(C(=C12)Cl)Cl)Cl)Cl)C1=C(N(C2=C3C(=CC=C12)C=CC=C3)CC)C)C | C34H26Cl4N2O2
